US07618697B2
Preparation of Propyl Coumarate
Coumaric acid (0.030 mol) is dissolved in 1-propanol (0334 mol) in a 100 ml round bottom flask. DCC (0.033 mol) is added followed by DMAP (0.003 mol). The mixture is stirred at 50° C. for 24 hours, filtered and the propanol removed under reduced vacuum to leave an oily solid which is taken up in ethyl acetate, washed with saturated aqueous NaHCO3 and distilled water, the ethyl acetate layer dried over MgSO4 to leave after removal of the ethyl acetate the desired product as a pale yellow solid in 71% yield.

reactant | Coumaric acid | 0.030 mol | C1=CC(=CC=C1/C=C/C(=O)O)O | C9H8O3
reactant | DCC | 0.033 mol | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | 1-propanol | C(CC)O | C3H8O
catalyst | DMAP | 0.003 mol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Propyl Coumarate | 71% yield | C(\C=C\C1=CC=C(C=C1)O)(=O)OCCC | C12H14O3
